US06599890B1
To a stirred solution of 4-fluorophenol (5.0 g, 44.6 mmol) in 50 mL of toluene was added sodium hydride (60% dispersion in mineral oil, 1.78 g, 44.6 mmol) at ambient temperature (22° C.). After 20 minutes, a solution of 1,3-propane sulfone (3.9 mL, 44.6 mmol) in toluene was added slowly and the mixture was stirred for 16 hours. The reaction was quenched by the addition of methanol and the mixture was concentrated in vacuo to an off-white solid. This solid was suspended in ethyl acetate, filtered, and the solids were collected and dried to give 10.9 g of 3-(4-fluorophenoxy)-propane-1-sulfonic acid sodium salt as an off-white powder. A stirred solution of 3-(4-fluorophenoxy)-propane-1-sulfonic acid sodium salt (2.0 g, 7.8 mmol) in 10 mL of thionyl chloride and one drops of dimethylformamide was heated at reflux for 16 hours. The mixture was then cooled to 0° C., diluted with 25 mL of diethyl ether, and the reaction was quenched by the slow addition of water. The organic layer was removed and the aqueous layer was extracted with 25 mL of diethyl ether. The combined organic layers were washed with brine and dried over sodium sulfate. Filtration and concentration gave 1.75 g of 3-(4-fluoro-phenoxy)-propane-1-sulfonyl chloride as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 6.96-7.00 (m, 2 H), 6.80-6.84 (m, 2 H), 4.10 (t, 2 H, J=5.5 Hz), 3.91 (t, 2 H, J=7.5 Hz) 2.47-2.54 (m, 2 H).

reactant | 3-(4-fluorophenoxy)-propane-1-sulfonic acid sodium salt | 7.8 mmol, 2.0 g | [Na+].FC1=CC=C(OCCCS(=O)(=O)[O-])C=C1
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drops | CN(C=O)C | C3H7NO
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 3-(4-fluoro-phenoxy)-propane-1-sulfonyl chloride | 1.75 g | FC1=CC=C(OCCCS(=O)(=O)Cl)C=C1 | C9H10ClFO3S
